US07476399B2
4-Chloro-3-methyl-N-(1-propyl-butyl)-benzamide
Prepared in a similar manner to example 4 using 4-chloro-3-methyl benzoic acid and heptan-4-amine. MS (M+H, 268).

reactant | 4-chloro-3-methyl benzoic acid | ClC1=C(C=C(C(=O)O)C=C1)C | C8H7ClO2
reactant | heptan-4-amine | CCCC(CCC)N | C7H17N
product | 4-Chloro-3-methyl-N-(1-propyl-butyl)-benzamide | ClC1=C(C=C(C(=O)NC(CCC)CCC)C=C1)C | C15H22ClNO
